US06001854
A mixture of 0.490 g (2 mmol) 3-diphenylmethylpyridine (Sigma-Aldrich Library of Rare Chemicals) and 0.334 g (4 mmol) ethyl bromoacetate (Aldrich) in 2 ml acetonitrile was heated under reflux for 1 hour. The solvent was evaporated, the residue suspended in diethyl ether and filtered to give 0.8 g 1-ethoxycarbonylmethyl-3-diphenylmethylpyridinium bromide as a yellow powder. 1H NMR (CD3OD, 300 MHz) δ 8.87 (d, 1 H), 8.77 (s, 1 H), 8.42 (d, 1 H), 8.10 (dd, 1 H), 7.50-7.10 (m, 10 H), 5.96 (s, 1 H), 5.55 (s, 2 H), 4.28 (q, 2 H), 1.29 (t, 3 H).

reactant | 3-diphenylmethylpyridine | 2 mmol, 0.490 g | C1(=CC=CC=C1)C(C=1C=NC=CC1)C1=CC=CC=C1 | C18H15N
reactant | ethyl bromoacetate | 4 mmol, 0.334 g | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-ethoxycarbonylmethyl-3-diphenylmethylpyridinium bromide | 0.8 g | [Br-].C(C)OC(=O)C[N+]1=CC(=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H22NO2.BrH/c1-2-25-21(24)17-23-15-9-14-20(16-23)22(18-10-5-3-6-11-18)19-12-7-4-8-13-19;/h3-16,22H,2,17H2,1H3;1H/q+1;/p-1
